data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_303698_1,[C:1]([N:3]1[C:5]2([H:12])[C@@:6]1([H:13])[C@:7](/[C:4]([C:2]([H:18])([H:19])[H:20])=[N:8]\[H:10])([H:14])[N:9]2[H:11])([H:15])([H:16])[H:17]>>[C:1]([N:3](/[C:5](=[N:9]/[H:11])[H:12])/[C:6](=[C:7]([C:4](\[C:2]([H:18])([H:19])[H:20])=[N:8]/[H:10])/[H:14])[H:13])([H:15])([H:16])[H:17],5.289197499986358
MR_386254_0,[C:1]([C:2]([O:6][H:9])=[O:8])(/[C:3]([N:5]([H:13])[H:14])=[N:7]/[H:15])([N:4]([H:11])[H:12])[H:10]>>[C:1](=[C:3](/[N:5]([H:13])[H:14])[N:7]([C:2]([O:6][H:9])=[O:8])[H:15])(\[N:4]([H:11])[H:12])[H:10],57.332164999996
MR_296491_1,[C@:1]([C:3]([H:17])([H:18])[H:19])([N:4]([C:5]([C:2]([H:14])([H:15])[H:16])=[O:8])[N:6]([H:10])[H:11])([N:7]([H:12])[H:13])[H:9]>>[C@@:1]([C:3]([H:17])([H:18])[H:19])([N:7]([H:12])[H:13])([O:8]/[C:5]([C:2]([H:14])([H:15])[H:16])=[N:4]\[N:6]([H:10])[H:11])[H:9],45.52324250002684
MR_543858_1,[C:1](=[N:3]\[H:10])(\[N:4]([H:11])[H:12])[N:7]1[C:2](=[C:6]([H:15])[H:16])[C:5]1([N:8]([H:9])[H:13])[H:14]>>[C:1]([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])=[N:7][C:2](/[C:5](=[N:8]/[H:13])[H:14])=[C:6]([H:15])[H:16],2.151069999990796
MR_276521_1,[C:1]1([H:8])([H:9])[C:2]([N:7]=[C:4]([H:11])[H:12])=[C:3]([H:10])[N:6]=[N:5]1>>[C:1]1([H:8])([H:9])[C:2]2([N:7]=[C:4]([H:11])[H:12])[C:3]([H:10])=[N:6][N:5]12,64.94248500004318
MR_75624_2,[C:1](/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:7]/[N:5]([H:8])[H:9])([O:6][C:2]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:1](=[C:4]([C:3]([H:15])([H:16])[H:17])[N:7]([N:5]([H:8])[H:9])[O:6][C:2]([H:12])([H:13])[H:14])([H:10])[H:11],65.36541999997411
MR_331606_1,[C:1](/[C:2]([N:3]([H:9])[H:10])=[C:5]([C:6](=[C:4](\[O:7][H:8])[H:11])\[H:13])/[H:12])([H:14])([H:15])[H:16]>>[C:1]([C@:2]1([N:3]([H:9])[H:10])[C@@:4]([O:7][H:8])([H:11])[C:6]([H:13])=[C:5]1[H:12])([H:14])([H:15])[H:16],36.6999650000102
MR_241690_0,[C:1](/[N:8]=[C:4](/[N:3]([C:5]([C:2]([H:16])([H:17])[H:18])=[O:9])[O:7][H:10])[N:6]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:8](/[C:4](=[N:3]/[O:7][H:10])[N:6]([H:11])[H:12])[C:5]([C:2]([H:16])([H:17])[H:18])=[O:9])([H:13])([H:14])[H:15],37.63054750001487
MR_655734_1,[C:1]([N:3]([C:4](/[N:8]=[C:5](/[C:2]([H:17])([H:18])[H:19])[O:7][H:10])=[N:9]\[H:13])[N:6]([H:11])[H:12])([H:14])([H:15])[H:16]>>[C:1]([N:3]([C@:5]([C:2]([H:17])([H:18])[H:19])([O:7][H:10])[N:8][C:4][N:9][H:13])[N:6]([H:11])[H:12])([H:14])([H:15])[H:16],41.68294249998496
MR_454344_0,[C:1]([N:2]([H:10])[H:11])([C:3](=[O:8])[H:12])(/[C:4](=[N:6]\[N:7]=[C:5]([H:14])[H:15])[H:13])[H:9]>>[C:1](\[N:2]([H:10])[H:11])(=[C:4](/[N:6]([C:3](=[O:8])[H:12])[N:7]=[C:5]([H:14])[H:15])[H:13])[H:9],42.55453999996021
MR_37733_1,[C:1](/[C:3]([C:2]([H:11])([H:12])[H:13])=[N:5]/[H:8])([N:4]([H:6])[H:7])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:3]([C:2]([H:11])([H:12])[H:13])([N:5]([H:7])[H:8])[N:4]1[H:6],56.95817499997716
MR_117388_0,[C@@:1]([C:2]([H:14])([H:15])[H:16])([N:3]([N:5]([H:12])[H:13])[H:11])([C:4]([O:7][H:10])=[O:8])[O:6][H:9]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:4]([N:3]([N:5]([H:12])[H:13])[H:11])=[O:8])([O:6][H:9])[O:7][H:10],49.23553249999955
MR_105572_2,[C:1](/[C:3]([O:5][H:8])=[N:6]\[C:4]([C:2]([H:12])([H:13])[H:14])=[O:7])([H:9])([H:10])[H:11]>>[C:1]([C:3]1([O:5][H:8])[N:6]=[C:4]([C:2]([H:12])([H:13])[H:14])[O:7]1)([H:9])([H:10])[H:11],29.2659725000172
MR_582792_0,[C:1]([C:4]([O:6][H:10])([N:7]([C:2]([N:3]([H:12])[H:13])=[O:8])[H:9])[H:14])(=[O:5])[H:11]>>[C:1](/[C:4](=[N:7]/[C:2]([N:3]([H:12])[H:13])=[O:8])[H:14])([O:5][H:9])([O:6][H:10])[H:11],40.15309749999517
MR_16320_0,[C:1]([C:5](=[C:2]([N:3]([H:8])[H:9])[N:4]([H:6])[H:7])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:5](/[C:2](=[N:3]\[H:8])[N:4]([H:6])[H:7])([H:9])[H:10])([H:11])([H:12])[H:13],53.63054249999635
MR_198067_1,[C:1](/[C:3](=[C:5](\[C:2]([H:19])([H:20])[H:21])[C:8](=[C:4]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])[H:15])[O:9][H:10])([H:16])([H:17])[H:18]>>[C:1]([C:3]1([O:9][H:10])[C:4]([N:6]([H:11])[H:12])([N:7]([H:13])[H:14])[C:8]([H:15])=[C:5]1[C:2]([H:19])([H:20])[H:21])([H:16])([H:17])[H:18],51.183292500004285
MR_561549_0,[N:1]([C:2]([C:4](=[O:7])[H:11])=[O:6])([N:3]([H:9])[H:10])[O:5][H:8]>>[N:1]([C:2]([N:3]([H:9])[H:10])=[O:6])([C:4](=[O:7])[H:11])[O:5][H:8],61.93926999999235
MR_552536_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:4]([C:3]([N:5]([H:10])[H:11])=[O:8])=[C:7]([H:17])[H:18])([N:6]([H:12])[H:13])[H:9]>>[C:1]1([C:2]([H:14])([H:15])[H:16])([N:6]([H:12])[H:13])[C:4]([C:3]([N:5]([H:10])[H:11])=[O:8])([H:9])[C:7]1([H:17])[H:18],62.31325999997552
MR_130193_0,[C:1](/[C:4](=[N:6]\[C:3](=[N:5]\[N:2]([H:7])[H:8])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]1([H:10])[N:5]([N:2]([H:7])[H:8])[C:3]([H:9])=[N:6]1)([H:11])([H:12])[H:13],33.73816499999748
MR_125810_0,[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[C:5]([C:3]([H:16])([H:17])[H:18])=[O:8])([N:6]([H:11])[H:12])([O:7][H:9])[H:10]>>[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[C:5]([C:3]([H:16])([H:17])[H:18])([O:8][H:9])[H:10])([N:6]([H:11])[H:12])=[O:7],59.95448750000975
